US07683168B2
The preceding ester, Example 137, was hydrolyzed as follows. A 50 mL round bottom flask equipped with a magnetic stir bar was charged with 0.64 g (1.2 mmol, 1 eq) of (1-{3-[(R)-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)(3-hydroxyphenyl)methyl]-benzoyl}-4-piperidinylidene)acetic acid ethyl ester, 5.0 mL ethanol, and 3.0 mL (6 mmol, 5 eq) of 2 N aqueous NaOH solution. The reaction was stirred at room temperature for 3 days and neutralized with 3.0 mL (6 mmol, 5 eq) of 2 N aqueous sulfuric acid. After stirring for 30 minutes, the reaction was filtered to remove the sodium sulfate and the solvent was removed in vacuo. The residue was dissolved in 5 mL of ethanol and filtered through a 0.2 □m polypropylene membrane. The filtrate was concentrated in vacuo, leaving an off-white solid. This material was dissolved in 8 mL of water, filtered through a 0.2 □m polypropylene membrane, and lyophilized to give (1-{3-[(R)-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)(3-hydroxyphenyl)methyl]-benzoyl}-4-piperidinylidene)acetic acid as a fluffy, white solid, 0.598 g. Calculated for C30H37N3O4 0.25 H2SO4 2.0 H2O: %C, 63.87; H, 7.41; N, 7.45. Found: %C, 64.03; H, 7.31; N, 7.42. 1H NMR (300 MHz, D2O with ˜0.1 N NaOD): {tilde over (□)}□brd, J=7.6 Hz, 1H), 7.30-7.25 (m, 2H), 7.14 (d, J=7.2 Hz, 1H), 6.93 (t, J=7.7 Hz, 1H), 6.46-6.37 (m, 2H), 6.29 (d, J=7.3 Hz, 1H), 5.77-5.66 (m, 1H), 5.61 (d, J=13.3 Hz, 1H), 5.10 (d, J=8.3 Hz, 1H), 5.07 (s, 2H), 3.72-3.51 (m, 2H), 3.26-3.22 (m, 3H), 2.76-2.21 (series of m, 8H), 2.02 (brt, 2H), 1.91 (brt, 1H, 0.96 (d, J=6.1 Hz, 3H), 0.82 (d, J=6.1 Hz, 3H).

reactant | (1-{3-[(R)-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)(3-hydroxyphenyl)methyl]-benzoyl}-4-piperidinylidene)acetic acid ethyl ester | 1.2 mmol, 0.64 g, 1 eq | C(C)OC(C=C1CCN(CC1)C(C1=CC(=CC=C1)[C@H](C1=CC(=CC=C1)O)N1[C@H](CN([C@@H](C1)C)CC=C)C)=O)=O | C32H41N3O4
reactant | ethanol | 5.0 mL | C(C)O | C2H6O
reactant | NaOH | 6 mmol, 2 N, 3.0 mL, 5 eq | [OH-].[Na+]
reactant | sulfuric acid | 6 mmol, 2 N, 3.0 mL, 5 eq | S(O)(O)(=O)=O | H2O4S
solvent | water | 8 mL | O | H2O
product | (1-{3-[(R)-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)(3-hydroxyphenyl)methyl]-benzoyl}-4-piperidinylidene)acetic acid | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@H](C=1C=C(C(=O)N2CCC(CC2)=CC(=O)O)C=CC1)C1=CC(=CC=C1)O)C | C30H37N3O4
